US06531494B1
(3-fluoro-4-methylphenyl)methanol
3-fluoro-p-anisaldehyde (12.5 g, 81.1 mmol) was dissolved in 100 ml THF. Under N2 a solution of diisobutylalumium hydride (100 ml, 1M in THF) was added at 0° C. over 30 min. The reaction was stirred for 30 min and quenched with 250 ml 1N HCl solution. The resulting mixture was stirred for 15 min and filtered through a short column of Celite®. The product was extracted with ethyl acetate. The aqueous layer was extracted with ethyl acetate. The combined organic layer was dried with MgSO4, and concentrated to give a viscous oil in 11.6 g. This product was used without further purification. NMR spectra of the product were consistent for the proposed structure.

reactant | 3-fluoro-p-anisaldehyde | 81.1 mmol, 12.5 g | FC=1C=C(C=O)C=CC1OC | C8H7FO2
reactant | hydride | 1M, 100 ml | [H-]
reactant | THF | 100 ml | C1CCOC1 | C4H8O
product | (3-fluoro-4-methylphenyl)methanol | FC=1C=C(C=CC1C)CO | C8H9FO
